US07507734B2
d) 4-(5-Isopropyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one
To a solution of 139 mg (crude material) 5-isopropyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole in 2.5 ml EtOH is added 2.5 ml aq. NaOH (1 M). The mixture is heated for 10 min at 150° C. using microwave. After cooling to room temperature the mixture is filtered and purified by HPLC to give 14 mg (11%) of the desired product as yellow solid.

reactant | 5-isopropyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole | 139 mg | C(C)(C)C=1C=C2C=C(NC2=CC1)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C21H20N4O
reactant | NaOH | 1 M, 2.5 ml | [OH-].[Na+]
solvent | EtOH | 2.5 ml | CCO | C2H6O
product | 4-(5-Isopropyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | 14 mg, 11% | C(C)(C)C=1C=C2C=C(NC2=CC1)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C20H18N4O
